US05869490
2-[4-(1H-Indol-3-yl)-1-piperidinylmethyl]-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one
(R)-2-(Toluene-4-sulfonyloxymethyl)-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one (1.0 g, 2.5 mmole) and 4-(1H-indol-3-yl)piperidine (2.0 g, 10 mmole) are combined in 30 ml of dry DMSO and heated at 80°-90° C. for 4 hours under an argon atmosphere. After cooling to room temperature, the mixture is diluted with 500 ml of 1:1 ethyl acetate/hexane and washed with 250 ml of saturated aqueous sodium bicarbonate and with two 250 ml portions of water, dried over sodium sulfate, filtered and concentrated in vacuum. The residue is column chromatographed on silica gel using 0.5% methanol/CHCl3 as eluant to give the free base of the title compound. The product is crystallized from ethanol with the addition of one equivalent of fumaric acid to give the (S) enantiomer of the title compound as a fumarate salt.

reactant | (R)-2-(Toluene-4-sulfonyloxymethyl)-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | 2.5 mmole, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3CC(NC3=C(C2)F)=O)O1)C | C18H16FNO6S
reactant | 4-(1H-indol-3-yl)piperidine | 10 mmole, 2.0 g | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate hexane | 500 ml | C(C)(=O)OCC.CCCCCC
product | 2-[4-(1H-Indol-3-yl)-1-piperidinylmethyl]-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC1COC=2C(=C3CC(NC3=C(C2)F)=O)O1 | C24H24FN3O3
